US09238603B1
A 300 mL Autoclave Engineers autoclave was charged with 25 grams of 2,2,4,4-tetramethylcyclobutane-1,3-dione, 87.50 grams Isopar™ G, 12.50 grams of water, and approximately 8 grams of washed raney nickel catalyst. The autoclave was pressure purged three times with nitrogen and three times with hydrogen, and the pressure was increased to 3.5 MPa (500 psig) with hydrogen. The autoclave was heated to 100° C. with stirring at approximately 1400 rpm and held for 5 hours at 3.5 MPa (500 psig). Analysis of the product by gas chromatography indicated that complete conversion of the 2,2,4,4-tetramethylcyclobutane-1,3-dione was obtained with 97.3% selectivity to 2,2,4,4-tetramethycyclobutane-1,3-diol with a cis:trans ratio of 0.6:1.

reactant | 2,2,4,4-tetramethylcyclobutane-1,3-dione | 25 grams | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
catalyst | raney nickel | approximately 8 grams | [Ni] | Ni
solvent | water | 12.50 grams | O | H2O
product | 2,2,4,4-tetramethycyclobutane-1,3-diol | CC1(C(C(C1O)(C)C)O)C | C8H16O2
